US07049444B2
(E)-3-(3-Nitrophenyl)-2-propen-1-ol
To a solution of ethyl (E)-3-(3-nitrophenyl)-2-propenoate (8.04 g, 36 mmol) in dichloromethane at 0° C. under nitrogen was added dropwise over 5 minutes diisobutylaluminium hydride (1.0 M solution in dichloromethane, 80 ml, 80 mmol). The mixture was stirred at 0° C. for 10 minutes, then allowed to warm to room temperature over 30 minutes. Hydrochloric acid (1N, 500 ml) was added, the layers were separated and the aqueous layer was extracted with dichloromethane (2×250 ml). The organic layers were combined, washed with brine (2×100 ml), filtered and concentrated in vacuo to give the title compound as a red oil.

reactant | ethyl (E)-3-(3-nitrophenyl)-2-propenoate | 36 mmol, 8.04 g | [N+](=O)([O-])C=1C=C(C=CC1)/C=C/C(=O)OCC | C11H11NO4
reactant | diisobutylaluminium hydride | 80 mmol, 1.0 M, 80 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Hydrochloric acid | 1N, 500 ml | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | (E)-3-(3-Nitrophenyl)-2-propen-1-ol | [N+](=O)([O-])C=1C=C(C=CC1)/C=C/CO | C9H9NO3
